US05037990
a) Ethyl 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-benzoate
A suspension of 11.5 g. (50 mMol) ethyl 4-(2-aminoethyl)-benzoate hydrochloride (J.A.C.S., 65, 2281, 2284/1943) and 12.65 g. (125 mMol) triethylamine in 150 ml. methylene chloride is stirred for 30 minutes at ambient temperature, cooled to 0° C. and a solution of 11.55 g. (50 mMol) 4-chlorobenzenesulphonic acid chloride in 50 ml. methylene chloride slowly added dropwise thereto. After ending of the reaction, the reaction mixture is extracted twice with dilute hydrochloric acid, washed with water and the organic phase then dried over anhydrous sodium sulphate. After evaporation of the solvent, there are obtained 11.4 g. (62% of theory) of colourless crystals; m.p. 88° C., after recrystallisation from ethanol.

reactant | ethyl 4-(2-aminoethyl)-benzoate hydrochloride | 50 mMol | Cl.NCCC1=CC=C(C(=O)OCC)C=C1
reactant | triethylamine | 125 mMol | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzenesulphonic acid chloride | 50 mMol | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethyl 4-[2-(4-chlorobenzenesulphonamido)-ethyl]-benzoate | ClC1=CC=C(C=C1)S(=O)(=O)NCCC1=CC=C(C(=O)OCC)C=C1 | C17H18ClNO4S
